US07968572B2
Ethyl 2-({[tert-butyl(diphenyl)silyl]oxy}methyl)acrylate
To a solution of 2-(hydroxymethyl)acrylic acid (520 mg) in DMF (5.0 mL) were added tert-butyldiphenylsilyl chloride (1.65 g) and imidazole (680 mg) and the reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with an aqueous saturated sodium hydrogen carbonate solution and brine, dried over magnesium sulfate, and concentrated in vacuum condition. The obtained residue was purified by column chromatography on silica gel (hexane:ethyl acetate=20:1→9:1) to give the title compound (1.35 g) having the following physical data.

reactant | 2-(hydroxymethyl)acrylic acid | 520 mg | OCC(C(=O)O)=C | C4H6O3
reactant | tert-butyldiphenylsilyl chloride | 1.65 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 680 mg | N1C=NC=C1 | C3H4N2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-({[tert-butyl(diphenyl)silyl]oxy}methyl)acrylate | 1.35 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(C(=O)OCC)=C | C22H28O3Si
